US09193719B2
4-((6-Fluoropyridin-3-yl)oxy)-2-(1-methyl-1H-pyrazol-4-yl)pyridine (0.99 g, 3.66 mmol) was dissolved in 2-propanol (7.3 mL) in a screw-cap reaction vessel. Hydrazine hydrate (64%) (0.9 mL, 18.3 mmol) was added, the vessel was sealed, and the reaction mixture was stirred at 80° C. for 12 h. The mixture was partitioned between sat. aqueous NaHCO3 (aq) (30 mL) and EtOAc (30 mL). The organic phase was collected and the aqueous phase was extracted with EtOAc (4×30 mL). The combined organics were dried (Na2SO4) and concentrated in vacuo to afford 4-((6-hydrazinylpyridin-3-yl)oxy)-2-(1-methyl-1H-pyrazol-4-yl)pyridine (0.9 g, 87%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6): δ 9.29 (s, 1H), 8.33 (d, J=5.7 Hz, 1H), 8.23 (s, 1H), 8.00 (d, J=2.9 Hz, 1H), 7.93 (s, 1H), 7.48 (dd, J=9.0, 2.9 Hz, 1H), 7.16 (d, J=2.4 Hz, 1H), 7.12 (d, J=9.0 Hz, 1H), 6.62 (dd, J=5.7, 2.4 Hz, 1H), 4.10 (d, J=4.5 Hz, 2H), 3.84 (s, 3H); MS (ESI) m/z: 283.1 (M+H+).

reactant | 4-((6-Fluoropyridin-3-yl)oxy)-2-(1-methyl-1H-pyrazol-4-yl)pyridine | 3.66 mmol, 0.99 g | FC1=CC=C(C=N1)OC1=CC(=NC=C1)C=1C=NN(C1)C | C14H11FN4O
reactant | Hydrazine hydrate | 18.3 mmol, 0.9 mL | O.NN
solvent | 2-propanol | 7.3 mL | CC(C)O | C3H8O
product | 4-((6-hydrazinylpyridin-3-yl)oxy)-2-(1-methyl-1H-pyrazol-4-yl)pyridine | 0.9 g, 87% | N(N)C1=CC=C(C=N1)OC1=CC(=NC=C1)C=1C=NN(C1)C | C14H14N6O
